US09284308B2
(1-Methyl-1H-1,2,3-triazol-5-yl)(6-(trifluoromethyl)pyridin-3-yl)methanol
A 50 mL flask containing 1-methyl-1H-1,2,3-triazole (0.47 g, 5.71 mmol) in dry THF (3 mL) was cooled to −43° C. (CH3CN—CO2 bath). n-Butyllithium (2.5 M in THF, 2.43 mL, 6.08 mmol) was then added dropwise resulting in a light blue suspension. The suspension was stirred at −40° C. for 40 minutes, and then a homogeneous solution of 6-(trifluoromethyl)nicotinaldehyde (1 g, 5.71 mmol) in THF (7 mL) was introduced at −40° C. The resulting homogeneous colorless solution was allowed to warm gradually to room temperature, and after 30 minutes, LC/MS showed that the reaction was complete. The mixture was quenched with water and aqueous NH4Cl and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated to provide the title compound as a semi-solid which was carried on to the next step without further purification.

reactant | 1-methyl-1H-1,2,3-triazole | 5.71 mmol, 0.47 g | CN1N=NC=C1 | C3H5N3
reactant | CH3CN CO2 | CC#N.C(=O)=O
reactant | n-Butyllithium | 6.08 mmol, 2.5 M, 2.43 mL | C(CCC)[Li]
reactant | 6-(trifluoromethyl)nicotinaldehyde | 5.71 mmol, 1 g | FC(C1=NC=C(C=O)C=C1)(F)F | C7H4F3NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | (1-Methyl-1H-1,2,3-triazol-5-yl)(6-(trifluoromethyl)pyridin-3-yl)methanol | CN1N=NC=C1C(O)C=1C=NC(=CC1)C(F)(F)F | C10H9F3N4O
